*=================================================================
* AFE.sub - SiPM Analog Front-End Subcircuit
*=================================================================

.SUBCKT AFE SIPM VCC_5V VREF CSA_OUT OUT_N OUT_P

** CIRCUIT_BODY_START **

* C:\Users\rober\Documents\GammaSpectrometer\03_SubsystemDesign\ElectronicHardware\Model\AFE.asc
* Generated by LTspice 26.0.1 for Windows.
R1 CSA_OUT N001 2k
C1 CSA_OUT N001 2.2n
X§U2 N002 N005 VREF VCC_5V 0 N006 N003 AD8139 ;§pnba +IN)-IN)VOCM)VCC)VEE)VOUTP)VOUTN
R3 N006 N005 620R
R4 N003 N002 620R
R6 N005 VREF 499
R7 N002 CSA_OUT 499
R2 N004 N003 50
R5 N007 N006 50
C2 N004 N007 150p
C3 N003 N002 1p
C4 N006 N005 1p
C5 OUT_N OUT_P 100p
R8 OUT_N N004 50
R9 OUT_P N007 50
C6 0 OUT_N 100p
C7 OUT_P 0 100p
X§U3 VREF N001 VCC_5V 0 CSA_OUT VCC_5V LTC6268 ;§pnba IN+)IN-)VCC)VEE)OUT)SHDN_L
R10 N001 SIPM 10
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\rober\AppData\Local\LTspice\lib\sym\OpAmps\AD8139.asy)
.lib AD8139.lib
* Library below included based on ModelFile attribute of instance X§U3 (C:\Users\rober\AppData\Local\LTspice\lib\sym\OpAmps\LTC6268.asy)
.lib LTC6268.sub
.backanno

** CIRCUIT_BODY_END **

.ENDS AFE

