.subckt AFE SIPM VCC_2V5 VEE_2V5 VCC_5V VEE_5V VREF OUT_N OUT_P

XU1 0 SIPM VCC_2V5 VEE_2V5 N001 VCC_2V5 LTC6268
R1 N001 SIPM 1k
C1 N001 SIPM 33p

XU2 N002 N004 VREF VCC_5V VEE_5V N005 N003 AD8139
R3 N005 N004 1k
R4 N003 N002 1k
R6 N004 0 499
R7 N002 N001 499
R2 OUT_N N003 50
R5 OUT_P N005 50
C2 OUT_N OUT_P 22p
C3 N003 N002 1p
C4 N005 N004 1p

.lib AD8139.lib
.lib LTC6268.sub

.ends AFE
